US08877782B2
cii) 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid
As described for example 358b, 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester (1.0 g, 4.23 mmol) was converted, instead of 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (587 mg, 67%) which was obtained as a dark brown solid. MS: m/e=207.1 [M−H]−.

reactant | 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester | 4.23 mmol, 1.0 g | C(C)OC(=O)C=1C(=NOC1)C1=NC=C(C=C1)F | C11H9FN2O3
reactant | 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1)C1=NC=CC=C1 | C11H10N2O3
product | 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid | 587 mg, 67% | FC=1C=CC(=NC1)C1=NOC=C1C(=O)O | C9H5FN2O3
